US07115633B2
(±)-1-Methyl5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-7carboxylic Acid
16.8 g (0.0499 mol) of 3,3-bis-ethoxycarbonyl-5-o-tolyl-pentanoic acid were dissolved in 120 mL of CH2Cl2 under a nitrogen atmosphere. The solution was cooled to 5° C. and 19 mL (0.1498 mol) of oxalyl chloride were added dropwise. After 3 h the volatiles were removed in vacuo, the resulting oil was dissolved in 200 mL of CH2Cl2 and this solution was added dropwise, at 0° C. and under inert atmosphere, to a suspension of 26.6 g (0.1996 mol) of AlC3 in 300 mL of CH2Cl2. The resulting suspension was vigorously stirred overnight, during which time it was allowed to warm to room temperature. Water was added, followed by 1N HCl up to pH 1. The layers were separated, the organic phase was dried and the solvent was removed in vacuo. The resulting crude product was taken up in dioxane (60 mL) and 6N HCl (200 mL) and heated to reflux for 6 h. After cooling, water was added and the reaction mixture was extracted with Et2O. The organic phase was dried, the solvent was removed in vacuo and the resulting crude product was purified by flash chromatography eluting with Et2O, yielding 5.9 g of compound which was triturated in (i-Pr)2O, filtered and dried, yielding 4.33 g of the title product.

reactant | 3,3-bis-ethoxycarbonyl-5-o-tolyl-pentanoic acid | 0.0499 mol, 16.8 g | C(C)OC(=O)C(CC(=O)O)(CCC1=C(C=CC=C1)C)C(=O)OCC | C18H24O6
reactant | oxalyl chloride | 0.1498 mol, 19 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Water | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-Methyl5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-7carboxylic Acid | 5.9 g | CC1=CC=CC2=C1CCC(CC2=O)C(=O)O | C13H14O3
